Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[O:4],1.89833458176
[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-4.85783060047
[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[O:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9].[O:10][H:11],6.5267742036300005
[C:6]([H:7])[H:8].[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-7.98800241662
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11].[O:12][H:13],3.1422271907
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])=[C:10][H:11])[C:13]([H:14])([H:15])[H:16],4.9768760830300005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:13][H:14],-1.86616511077
[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.1676679533499998
[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.72744260089
[C:1](=[O:3])[H:7].[C:2]#[C:5][O:6][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[H:7],-2.98281288455
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:10]([H:9])[H:11],1.05270550006
[H:1][C:2]([H:3])[C:4]1=[C:5][C:6]([H:7])([H:8])[O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[O:9][C:10]([C:4])([H:11])[H:12],3.61677366482
[H:1][C:2][O:3][C:4][H:5].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])[H:6],-5.07960725809
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.80973140875
[C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.16713906568
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:1],4.664759865530001
[H:12].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.92288601934
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2],5.49111721114
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-2.94217738818
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]1[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],1.70986848565
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2][C:3],3.06521736737
[H:1][C:2]#[C:3][O:9][C:6]([C:4][H:5])([H:7])[H:8]>>[H:1][C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1,-1.32994165646
[H:1][O:2][C:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])[H:8],1.74343760113
[H:1][O:2][C:3]([H:4])[O:6][C:7][C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-4.12417716809
[C:1]=[O:2].[C:3]#[C:4][O:5][H:6]>>[C:1][O:2][C:3]#[C:4][O:5][H:6],1.29408333734
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:7][H:8])=[C:9]([H:10])[H:11].[H:6],1.3237532255600002
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1],4.07522353688
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:5],2.52582728021
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13],4.242985711269999
[H:6].[O:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[H:10]>>[O:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-5.2080052156
